US03991197
44 G. of 3',4',5'-trimethoxyacetophenone and 440 ml. of water are heated at 70° C. with stirring and treated with 20.2 ml. of isonicotinaldehyde. Then, there are added, three times at intervals of 30 minutes, 4 ml. each time of a 6% sodium hydroxide solution in water/methaol (2:1). The resulting reaction mixture is kept overnight at 70° C., cooled in an ice-bath and the resulting crystals are filtered off then washed with ethanol and ether to result in a product with a melting point at 124°-127° C. After recrystallization from methanol/ether there are obtained crystals of melting ppont 128°-130° C. The mother liquors are evaporated under reduced pressure, taken up in ethyl acetic and the organic phase is washed twice with water. The washings are extracted twice with ethyl acetate and the combined organic phases dried over sodium sulfate and evaporated under reduced pressure. The residue is chromatographed on a 30-fold amount of silica gel (ether/diethylamine 95:5) and after recrystallization from ethanol/ether, there are obtained 3',4',5'-trimethoxy-3-(4-pyridyl)-acrylophenone of melting point 127°-129° C.

reactant | 3',4',5'-trimethoxyacetophenone | COC=1C=C(C=C(C1OC)OC)C(C)=O | C11H14O4
reactant | isonicotinaldehyde | C(C1=CC=NC=C1)=O | C6H5NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3',4',5'-trimethoxy-3-(4-pyridyl)-acrylophenone | COC=1C=C(C=C(C1OC)OC)C(C=CC1=CC=NC=C1)=O | C17H17NO4
